US05436359
1-Acetoxy-6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylbenzene
6-(10-Acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol (0.65 g) was dissolved in dichloromethane (5 ml), and triethylamine (0.2 ml) followed by acetyl chloride (0.08 g) was added. The mixture was stirred at the same temperature for 30 minutes. The reaction mixture was concentrated, and then the residue was subjected to column chromatography on silica gel and eluted with hexane/ethyl acetate (9:1) to obtain the desired compound (0.483 g).

reactant | 6-(10-Acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol | 0.65 g | C(C)(=O)OCCCCCCCCCCC1=C(C(=C(C(=C1O)OC)OC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C37H52O6Si
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.08 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-Acetoxy-6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylbenzene | 0.483 g | C(C)(=O)OC1=C(C(=C(C(=C1CCCCCCCCCCOC(C)=O)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OC)OC | C39H54O7Si
